US06403601B1
(e) 4-Iodo-3-methoxy-5,6,7,8-tetrahydro-2-naphthalenecarboxamide
Thionyl chloride (1.59 mL, 21.80 mmol) was added dropwise over 5 min to a stirred suspension of 4-iodo-3-methoxy-5,6,7,8-tetrahydro-2-naphthalenecarboxylic acid (2.9 g, 8.73 mmol) in toluene (10 mL) and DMF (0.25 mL) at room temperature. After heating at reflux for 3.5 h, the reaction was cooled to 0° C. and added to cooled (0° C.) 28% NH4OH (25 mL). The mixture was stirred at 0° C. for 10 min and at room temperature overnight. The mixture was filtered and the collected solid was thoroughly washed with H2O. The light brown solid (2.07 g, 72%) was dried under high vacuum at 50° C. 1H NMR (CDCl3) δ 7.79 (s, 1H), 7.61 (s, 1H), 5.90 (s, 1H), 3.84 (s, 3H), 2.76 (m, 4H), 1.79 (m, 4H). MS m/z 332 (M+H).

reactant | Thionyl chloride | 21.80 mmol, 1.59 mL | S(=O)(Cl)Cl | Cl2OS
reactant | 4-iodo-3-methoxy-5,6,7,8-tetrahydro-2-naphthalenecarboxylic acid | 8.73 mmol, 2.9 g | IC1=C(C(=CC=2CCCCC12)C(=O)O)OC | C12H13IO3
reactant | NH4OH | 25 mL | [NH4+].[OH-]
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
solvent | DMF | 0.25 mL | CN(C)C=O | C3H7NO
product | 4-Iodo-3-methoxy-5,6,7,8-tetrahydro-2-naphthalenecarboxamide | IC1=C(C(=CC=2CCCCC12)C(=O)N)OC | C12H14INO2
